US07101886B2
N-(2-FLUORO-4-IODO-PHENYL)-ACETAMIDE
To a stirred solution of 2-fluoro-4-iodo-phenylamine (61 g, 257 mmol) in anhydrous pyridine (25 mL) was added drop-wise acetic anhydride (32.8 mL, 321 mmol) at such a rate to maintain the internal temperature between 10° C. and 20° C. At the end of the addition, the reaction was stirred for an additional 0.5 h at rt followed by heating on an oil bath (external temperature 50–60° C.). The reaction was monitored by thin layer chromatography. Once complete (ca. 1.5 h), the mixture was cooled and the reaction mixture solidified. The solid was slurried with cold ethanol (50 mL) and filtered. The solid was washed with cold ethanol (mL) and dried to a fine white crystalline material. The filtrate was concentrated and taken up in ethanol (20 mL) and cooled overnight. Further product was obtained. 63 g (226 mmol) was isolated as a fine white, crystalline solid. Yield: 88%; mp 153° C.; 1H NMR (400 MHz, CDCl3) δ 8.15 (t, J=8 Hz, 1H), 7.33 (br s, 1H), 7.49 (m, 2H), 2.24 (s, 3H, Me).

reactant | 2-fluoro-4-iodo-phenylamine | 257 mmol, 61 g | FC1=C(C=CC(=C1)I)N | C6H5FIN
reactant | acetic anhydride | 321 mmol, 32.8 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethanol | 50 mL | C(C)O | C2H6O
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-FLUORO-4-IODO-PHENYL)-ACETAMIDE | Yield: 88% | FC1=C(C=CC(=C1)I)NC(C)=O | C8H7FINO
